US05140031
A. (trans)-4-[[(Cyanoimino)phenoxymethyl]amino]-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile
To a solution of (trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (prepared according to Evans et al., J. Med. Chem., 1983, 26, 1582 and J. Med. Chem., 1986, 29, 2194) (5.0 g, 23 mmol) in isopropanol (50 mL), diphenylcyanocarbonimidate (5.5 g, 25 mmol) was added at room temperature and the reaction mixture was allowed to stir at room temperature for 16 hours. Most of the isopropanol was evaporated and the residue was dissolved in ethyl acetate. The resulting solution was washed successively with 10% citric acid, 1N sodium hydroxide solution and brine. It was dried over anhydrous magnesium sulfate, concentrated and the residue was crystallized from chloroform-isopropyl ether to yield the title A compound (4.2 g) as a colorless solid, m.p. 186°-188° C.

reactant | (trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 23 mmol, 5.0 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | diphenylcyanocarbonimidate | 25 mmol, 5.5 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | (trans)-4-[[(Cyanoimino)phenoxymethyl]amino]-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 4.2 g | C(#N)N=C(OC1=CC=CC=C1)N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C20H18N4O3
